US04166120
A solution of 3.4 g of 2,3-dihydro-1'-acetyl-5-nitrospiro[benzofuran-2,4'-piperidine] in 150 ml of 6 N hydrochloric acid is refluxed for 45 hours and then stirred at ambient temperature for 16 hours. Thereafter, the reaction mixture is successively extracted once with ether, basified with 6 N sodium hydroxide and extracted thrice with ether. The combined ether extracts are dried and the solvent removed, leaving a yellow residue. The residue is dissolved in ether where it is converted to its hydrogen chloride salt. The salt is collected, dried and finally recrystallized twice from ethyl alcohol to give the product 2,3-dihydro-5-nitrospiro[benzofuran-2,4'-piperidine]hydrochloride, mp 265°-266° C.

reactant | 2,3-dihydro-1'-acetyl-5-nitrospiro[benzofuran-2,4'-piperidine] | 3.4 g | C(C)(=O)N1CCC2(CC1)OC1=C(C2)C=C(C=C1)[N+](=O)[O-] | C14H16N2O4
reactant | hydrochloric acid | 6 N, 150 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2,3-dihydro-5-nitrospiro[benzofuran-2,4'-piperidine]hydrochloride | Cl.[N+](=O)([O-])C=1C=CC2=C(CC3(CCNCC3)O2)C1 | InChI=1S/C12H14N2O3.ClH/c15-14(16)10-1-2-11-9(7-10)8-12(17-11)3-5-13-6-4-12;/h1-2,7,13H,3-6,8H2;1H
